US04415572
6-(1-Piperazinyl)-3,4-dihydrocarbostyril (1.0 g) was added to a mixture of 10 ml of DMF and 0.85 ml of trimethylamine and the mixture was stirred at room temperature while slowly adding dropwise 5 ml of DMF solution containing 440 mg of methanesulfonyl chloride. After completion of addition, the reaction mixture was stirred at the same temperature as above for 30 minutes. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol to give 0.17 g of 6-(4-methanesulfonyl-1-piperazinyl)-3,4-dihydrocarbostyril, m.p. 241.5°-243° C., colorless granules.

reactant | 6-(1-Piperazinyl)-3,4-dihydrocarbostyril | 1.0 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | trimethylamine | 0.85 ml | CN(C)C | C3H9N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | methanesulfonyl chloride | 440 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 6-(4-methanesulfonyl-1-piperazinyl)-3,4-dihydrocarbostyril | 0.17 g | CS(=O)(=O)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C14H19N3O3S
